US05840917
4-Nitrophenoxyacetamide
A mixture of 4-nitrophenol (7.5 g), iodoacetamide (10 g), potassium carbonate (7.5 g) and dimethylformamide (50 ml) was stirred at 50° C. for 15 hours. The mixture was poured into ice-water, and extracted with ethyl acetate. The extract was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was recrystallized from acetone-diisopropyl ether to give the desired compound (7.9 g) as colorless crystals.

reactant | 4-nitrophenol | 7.5 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | iodoacetamide | 10 g | ICC(=O)N | C2H4INO
reactant | potassium carbonate | 7.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-Nitrophenoxyacetamide | 7.9 g | [N+](=O)([O-])C1=CC=C(OCC(=O)N)C=C1 | C8H8N2O4
